US08729271B2
A mixture of 2-chloro-isonicotinonitrile (1.9 g), 4-fluorophenylboronic acid (2.9 g), sodium carbonate (4.3 g), tetrakis(triphenylphosphine)palladium (480 mg), 1,2-dimethoxyethane (40 mL), ethanol (20 mL) and water (20 mL) was stirred while heating at 100° C. for 2 hr. The solvent was distilled off under reduced pressure, and the resulting residue was then purified by column chromatography (silica gel cartridge, hexane:ethyl acetate=94:6-50:50) to afford 2-(4-fluorophenyl)pyridine-4-carbonitrile (2.0 g).

reactant | 2-chloro-isonicotinonitrile | 1.9 g | ClC=1C=C(C#N)C=CN1 | C6H3ClN2
reactant | 4-fluorophenylboronic acid | 2.9 g | FC1=CC=C(C=C1)B(O)O | C6H6BFO2
reactant | sodium carbonate | 4.3 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | 1,2-dimethoxyethane | 40 mL | COCCOC | C4H10O2
catalyst | tetrakis(triphenylphosphine)palladium | 480 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | water | 20 mL | O | H2O
solvent | ethanol | 20 mL | C(C)O | C2H6O
product | 2-(4-fluorophenyl)pyridine-4-carbonitrile | 2.0 g | FC1=CC=C(C=C1)C1=NC=CC(=C1)C#N | C12H7FN2
